US05604229
Diethyl acetamidomalonate (6.996 g) and 3.189 g of sodium ethoxide were dissolved in 130 ml of dry ethanol and a solution of 10.698 g of 1-bromo-12-tetrahydropyranyloxydodecane in 200 ml of dry ethanol was added thereto. The mixture was refluxed under heating for 8 hours. The solvent was distilled away under reduced pressure and the residue was purified by silica gel column chromatography to give 5.837 g of diethyl 2-acetamido-2-(12-tetrahydropyranyloxydodecyl)malonate.

reactant | Diethyl acetamidomalonate | 6.996 g | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
reactant | sodium ethoxide | 3.189 g | [O-]CC.[Na+]
reactant | 1-bromo-12-tetrahydropyranyloxydodecane | 10.698 g | BrCCCCCCCCCCCCOC1OCCCC1 | C17H33BrO2
solvent | ethanol | 130 ml | C(C)O | C2H6O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | diethyl 2-acetamido-2-(12-tetrahydropyranyloxydodecyl)malonate | 5.837 g | C(C)(=O)NC(C(=O)OCC)(C(=O)OCC)CCCCCCCCCCCCOC1OCCCC1 | C26H47NO7
